US07470715B2
Imidazole (2.1 g) is added to a solution consisting of the 1-[3-(4-hydroxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester (9.6 g) and tert-butyldimethylsilyl chloride (4.7 g) in THF (100 mL). The reaction mixture is stirred at room temperature overnight. Brine solution is added and the reaction mixture is twice extracted with ethyl acetate. The combined extracts are dried and concentrated. Repeated concentration from hexane and then pentane gave 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropanecarboxylic acid methyl ester (12.8 g.)

reactant | Imidazole | 2.1 g | N1C=NC=C1 | C3H4N2
reactant | 1-[3-(4-hydroxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester | 9.6 g | COC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C20H17NO4
reactant | tert-butyldimethylsilyl chloride | 4.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropanecarboxylic acid methyl ester | 12.8 g | COC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C26H31NO4Si
